US09079911B2
Intermediate 82: 3-Methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid
To a solution of 3-methyl-2-(2H-1,2,3-triazol-2-yl)benzonitrile (1.4 g, 7.82 mmol) in MeOH (15 mL) was added a 4N aqueous solution of NaOH (10 mL). The resulting mixture was heated to 90° C. After 15 h the reaction mixture was cooled to ambient temperature then diluted with water (50 mL). The aqueous layer was acidified to pH2 and extracted with EtOAc (50 mL) three times. The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by FCC (SiO2, gradient DCM to 10% MeOH/1% HOAc/DCM) to yield the title compound (1.3 g, 78%). 1H NMR (500 MHz, CDCl3): 7.90 (d, J=7.7, Hz, 1H), 7.83 (s, 2H), 7.57-7.53 (m, 1H), 7.49 (dd, J=9.7, 5.8 Hz, 1H), 2.10 (s, 3H).

reactant | 3-methyl-2-(2H-1,2,3-triazol-2-yl)benzonitrile | 7.82 mmol, 1.4 g | CC=1C(=C(C#N)C=CC1)N1N=CC=N1 | C10H8N4
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | MeOH | 15 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 3-Methyl-2-(2H-1,2,3-triazol-2-yl)benzoic acid | 1.3 g, 78% | CC=1C(=C(C(=O)O)C=CC1)N1N=CC=N1 | C10H9N3O2
